US04347246
E. N-(2-Mercapto-3-methoxybenzoyl)-N-cyclopentylglycine
N-(2-Acetylthio-3-methoxybenzoyl)-N-cyclopentylglycine (4.4 g, 12.5 mmol) was stirred with excess sodium hydroxide solution for 2 hours at 25° C., then acidified and extracted with ethyl acetate. The extract was washed with water and brine, then dried and concentrated. The amorphous product was obtained by column chromatography of the residue.

reactant | N-(2-Acetylthio-3-methoxybenzoyl)-N-cyclopentylglycine | 12.5 mmol, 4.4 g | C(C)(=O)SC1=C(C(=O)N(CC(=O)O)C2CCCC2)C=CC=C1OC | C17H21NO5S
reactant | sodium hydroxide | [OH-].[Na+]
product | N-(2-Mercapto-3-methoxybenzoyl)-N-cyclopentylglycine | SC1=C(C(=O)N(CC(=O)O)C2CCCC2)C=CC=C1OC | C15H19NO4S
